US09024018B2
Methyl-4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide
4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide (0.323 g; 0.86 mmol) was dissolved in dry MeCN (1 mL) and iodomethane (1.220 g; 8.6 mmol) was added and the reaction mixture stirred at room temperature overnight.

reactant | 4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide | 0.86 mmol, 0.323 g | O=C1N2C(N=NN1CC#C)=C(N=C2)C(N)=S | C8H6N6OS
reactant | iodomethane | 8.6 mmol, 1.220 g | IC | CH3I
solvent | MeCN | 1 mL | CC#N | C2H3N
product | Methyl-4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide | I.CSC(=N)C=1N=CN2C1N=NN(C2=O)CC#C | InChI=1S/C9H8N6OS.HI/c1-3-4-15-9(16)14-5-11-6(7(10)17-2)8(14)12-13-15;/h1,5,10H,4H2,2H3;1H
